US06011046
Ethyl 5-(5-acetoxy-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)valerate
5% palladium-carbon (0.1 g) was added to a solution of ethyl 5-(5-acetoxy-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)pentadienoate (1.3 g) in ethanol (30 ml), and the mixture was stirred under an atmosphere of hydrogen at 50° C. for 5 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate 7:3) to obtain the title compound (1.1 g, 86%) as an oil.

reactant | ethyl 5-(5-acetoxy-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)pentadienoate | 1.3 g | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C)C=CC=CC(=O)OCC)C1C)OC)OC | C21H26O7
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | Ethyl 5-(5-acetoxy-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)valerate | 1.1 g, 86% | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C)CCCCC(=O)OCC)C1C)OC)OC | C21H30O7
